US06451740B2
A mixture of 75 mg of 5-fluoro-2-(3-methoxyphenoxy)-4-[3-methyl-2,6-dioxo-4-(trifluoromethyl)-1,2,3,6-tetrahydropyrimidin-1-yl]bromobenzene, 27 mg of copper cyanide and 0.5 ml of N-methyl-2-pyrrolidone was stirred at 170 to 180° C. for 2 hours. The reaction mixture was cooled to room temperature, water was added to the mixture and the resultant was extracted with ethyl acetate. The organic layer was dried over anhydrous magnesium sulfate, and concentrated. The residue was subjected to silica gel column chromatography to obtain 57 mg of 5-fluoro-2-(3-methoxyphenoxy)-4-[3-methyl-2,6-dioxo-4-(trifluoromethyl)-1,2,3,6-tetrahydropyrimidin-1-yl]cyanobenzene.

reactant | 5-fluoro-2-(3-methoxyphenoxy)-4-[3-methyl-2,6-dioxo-4-(trifluoromethyl)-1,2,3,6-tetrahydropyrimidin-1-yl]bromobenzene | 75 mg | FC=1C(=CC(=C(C1)Br)OC1=CC(=CC=C1)OC)N1C(N(C(=CC1=O)C(F)(F)F)C)=O | C19H13BrF4N2O4
reactant | copper cyanide | 27 mg | [Cu](C#N)C#N
reactant | N-methyl-2-pyrrolidone | 0.5 ml | CN1C(CCC1)=O | C5H9NO
solvent | water | O | H2O
product | 5-fluoro-2-(3-methoxyphenoxy)-4-[3-methyl-2,6-dioxo-4-(trifluoromethyl)-1,2,3,6-tetrahydropyrimidin-1-yl]cyanobenzene | 57 mg | FC=1C(=CC(=C(C1)C#N)OC1=CC(=CC=C1)OC)N1C(N(C(=CC1=O)C(F)(F)F)C)=O | C20H13F4N3O4
